US06376672B1
In an analogous manner to that described in Example 13 (g), by alkylating (3SR,4RS,5RS)-3-hydroxymethyl-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester with allylbromide there was obtained (3SR,4RS,5RS)-3-allyloxymethyl-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester as a colorless oil; MS: 682 (M+H)+.

reactant | (3SR,4RS,5RS)-3-hydroxymethyl-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(C(C1)OCC1=CC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)CO | C39H47NO7
reactant | allylbromide | C(C=C)Br | C3H5Br
product | (3SR,4RS,5RS)-3-allyloxymethyl-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(C(C1)OCC1=CC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)COCC=C | C42H51NO7
